US07776896B2
A solution of lithium diisopropylamide (13.4 mL, 26.8 mmol, 2M solution) in THF (170 mL) was cooled to −78° C. as a solution of 1-(triphenylmethyl)-1H-tetrazole-5-pentanenitrile (10.55 g, 26.8 mmol) in THF (30 mL) was added slowly. The reaction was allowed to warm to ambient temperature 30 min, before cooling to −78° C. The reaction was stirred as a solution of (3aR,4R,5R,6aS)-5-(benzoyloxy)-4-[(1E,3S)-3-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-methyl-1-octenyl]hexahydro-2H-cyclopenta[b]furan-2-one (3.3 g, 5.4 mmol) in THF (50 mL) was added slowly. The reaction was warmed to room temperature and stirred for 16 h. The reaction was treated with an aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The combined organic layers were dried and concentrated. Purification by normal phase chromatography eluting with a gradient of ethyl acetate in hexane afforded α-[(3aR,4R,5R,6aS)-5-(benzoyloxy)-4-[(1E,3S)-3-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-methyl-1-octenyl]hexahydro-2-hydroxy-2H-cyclopenta[b]furan-2-yl]-1-(triphenylmethyl)-1H-tetrazole-5-pentanenitrile.

reactant | lithium diisopropylamide | 26.8 mmol, 2M, 13.4 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-(triphenylmethyl)-1H-tetrazole-5-pentanenitrile | 26.8 mmol, 10.55 g | C1(=CC=CC=C1)C(N1N=NN=C1CCCCC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23N5
reactant | (3aR,4R,5R,6aS)-5-(benzoyloxy)-4-[(1E,3S)-3-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-methyl-1-octenyl]hexahydro-2H-cyclopenta[b]furan-2-one | 5.4 mmol, 3.3 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@@H]2[C@@H](OC(C2)=O)C1)\C=C\[C@H](C(CCCC)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C39H48O5Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | α-[(3aR,4R,5R,6aS)-5-(benzoyloxy)-4-[(1E,3S)-3-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-methyl-1-octenyl]hexahydro-2-hydroxy-2H-cyclopenta[b]furan-2-yl]-1-(triphenylmethyl)-1H-tetrazole-5-pentanenitrile | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@@H]2[C@@H](OC(C2)(O)C(C#N)CCCC2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)\C=C\[C@H](C(CCCC)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C64H71N5O5Si
